US06410585B1
5-[(2S)-3-(Benzylamino)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenyl-propa-noyl}amino)-3-oxopropyl]-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid and benzylamine (31 μL) according to Method A to give a material which was re-purified by reversed phase C-18 HPLC in absence of trifluoroacetic acid to give the title compound (29 mg). 1H-NMR (400 MHz, CD3OD) d 7.78 (s, 1H), 7.36 (dd, J=2.0 Hz, J=8.6 Hz, 1H), 7.30-7.13 (m, 10H), 6.96 (d, J=8.5 Hz, 1H), 4.79 (s, 2H), 4.58 (t, J=6.9 Hz, 1H), 3.11-2.94 (m, 4H), 2.76 (dd, J=10 Hz, J=13.4 Hz, 1H), 1.33 (s, 9H); IR (KBr) 3304, 2979, 1694, 1640 cm−1; HRMS m/z 619.2511 (calc. of monoisotopic mass for C33H37N3O9 gives 619.2530).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | benzylamine | 31 μL | C(C1=CC=CC=C1)N | C7H9N
product | 5-[(2S)-3-(Benzylamino)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenyl-propa-noyl}amino)-3-oxopropyl]-2-(carboxymethoxy)benzoic Acid | 29 mg | C(C1=CC=CC=C1)NC([C@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)NC([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C33H37N3O9
